US07888352B2
To a solution of (R)-4-methanesulfonyl-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (924 mg) in dichloromethane (20 mL) at 0° C. was added dropwise HCl (6.65 mL of a 2 M solution in diethyl ether). The reaction mixture was stirred at room temperature for 2 h. The precipitate formed was then collected by filtration and dried to afford (R)-1-methanesulfonyl-2-methyl-piperazine hydrochloride salt as a white solid (520 mg, 73%).

reactant | (R)-4-methanesulfonyl-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 924 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)S(=O)(=O)C)C | C11H22N2O4S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-1-methanesulfonyl-2-methyl-piperazine hydrochloride salt | 520 mg, 73% | Cl.CS(=O)(=O)N1[C@@H](CNCC1)C | InChI=1S/C6H14N2O2S.ClH/c1-6-5-7-3-4-8(6)11(2,9)10;/h6-7H,3-5H2,1-2H3;1H/t6-;/m1./s1
